US06043248
Preparation of 2-(4-amino-6-hydroxy-2-(2-naphthylmethyl)thio-5-pyrimidinyl)-1-(dimethyl-tert-butylsilyloxy)ethane (Cpd #280)
2-(4-amino-6-hydroxy-2-[2-naphthylmethyl]thio-5-pyrimidinyl)-ethanol (Cpd #279; 106 mg, 0.32 mmol) is dissolved in pyridine (0.64 ml) and the solution is cooled to 0° C. then treated with t-butyl dimethylsilyl chloride (0.058 g, 0.39 mmol). The solution is stirred at 0° C. for 2 hours and two new spots developed in the mixture. The reaction mixture is poured into methylene chloride and washed 3× with 1 M HCl, 10% HCl, 3× H2O, 2× 6% NaHCO3, dried with MgSO4, then concentrated in vacuo. The crude product is then purified by chromatography (SiO2 1:1 hexane/ethyl acetate): 60 mg (0.18 mmol, 57%), mp 156-158° C.

reactant | 2-(4-amino-6-hydroxy-2-[2-naphthylmethyl]thio-5-pyrimidinyl)-ethanol | 0.32 mmol, 106 mg | NC1=NC(=NC(=C1CCO)O)SCC1=CC2=CC=CC=C2C=C1 | C17H17N3O2S
reactant | t-butyl dimethylsilyl chloride | 0.39 mmol, 0.058 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.64 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-amino-6-hydroxy-2-(2-naphthylmethyl)thio-5-pyrimidinyl)-1-(dimethyl-tert-butylsilyloxy)ethane | NC1=NC(=NC(=C1CCO[Si](C(C)(C)C)(C)C)O)SCC1=CC2=CC=CC=C2C=C1 | C23H31N3O2SSi
